data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][OH:21].[B-]([O:10]C(CC(=C)C(C)COCC1=CC=C(C=C1)OC)C2C(O2)CC(=C)Br)(F)(F)F.CC[O+](CC)[Si](C)(C)C>>[H:20][O+:10]([B-](F)(F)F)C(CC(=C)C(C)COCC1=CC=C(C=C1)OC)C2C(O2)CC(=C)Br.[OH-:21].CC[O+](CC)[Si](C)(C)C 10=20;20,21=21
CCCC1CC(C([CH:20](C1)[O:21]S(=O)(=O)C2=CC=C(C=C2)C)OC(=[O:10])C)C3CCCCC3>>CCCC1CC(C2[CH:20](C1)[O+:10]=C(O2)C)C3CCCCC3.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
C[NH+](C)C1=CC=C[CH:10]=[CH:11]1.[N+:20](=O)=[O:21]>>C[NH+](C)C1=CC=C[CH:10]([CH+:11]1)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
CC(CC=CCO[Si](C1=CC=CC=C1)(C2=CC=CC=C2)C(C)(C)C)[O:10][CH2:20][O+:21]3CC[O+]([Ti-2]3(Cl)(Cl)(Cl)Cl)C>>CC(CC=CCO[Si](C1=CC=CC=C1)(C2=CC=CC=C2)C(C)(C)C)[O+:10]=[CH2:20].C[O+]1CC[O:21][Ti-2]1(Cl)(Cl)(Cl)Cl 10=20;20,21=21
[H:20][OH+:21]C(CBr)C(C)C.[OH2:10]>>[H:20][OH2+:10].CC(C)C(CBr)[OH:21] 10=20;20,21=21
C[C+:20](CC(C1=CC=CC=C1)OC)[CH2:10][Si-:11](C)(C)(C)OS(=O)(=O)C(F)(F)F.CO[Si](C)(C)C>>C[C:20](=[CH2:10])CC(C1=CC=CC=C1)OC.C[Si:11](C)(C)OS(=O)(=O)C(F)(F)F.CO[Si](C)(C)C 10,11=10,20
[H:20][O+:21](C1CCC2(C(C1(C)C)CCC3C24CCC(C(C3)C4)O)C)I5(C6=C(C=CC=C6)C(=O)O5)(OC(=O)C)OC(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=O)OI1(C2=C(C=CC=C2)C(=O)O1)([O:21]C3CCC4(C(C3(C)C)CCC5C46CCC(C(C5)C6)O)C)OC(=O)C 10=20;20,21=21
[H:20][O+:21]=C1CC(CO1)CCC.C(=O)(C(F)(F)F)[O-:10].O>>[H:20][O:10]C(=O)C(F)(F)F.CCCC1CC(=[O:21])OC1.O 10=20;20,21=21
C[C+:20]=O.CO[C:13]1=[C:12]2C=CC=C[C:11]2=[CH:10]C=C1>>C[C:20](=O)[CH:10]1C=C[C+:13]([C:12]2=[C:11]1C=CC=C2)OC 10,11=10,20;12,13=11,12
CC1C(CC(O1)N2C=C(C(=O)NC2=O)C)O[P:10](OCCC#N)OC3CC(OC3COC(C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)N7C=C(C(=O)NC7=O)C.[I:20][I:21].C1=CC=NC=C1.O>>CC1C(CC(O1)N2C=C(C(=O)NC2=O)C)O[P+:10](OCCC#N)(OC3CC(OC3COC(C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)N7C=C(C(=O)NC7=O)C)[I:20].[I-:21].C1=CC=NC=C1.O 10=20;20,21=21
COC1=C2C3=C(CC4C5(C3(CCN4CC6CCC6)C(O2)[C:20](CC5)([NH:10]N)[OH:21])O)C=C1.C(COCCO)O.O>>COC1=C2C3=C(CC4C5(C3(CCN4CC6CCC6)C(O2)[C:20](=[NH+:10]N)CC5)O)C=C1.[OH-:21].C(COCCO)O.O 10=20;20,21=21
CC(C)O[Al:20](OC(C)C)OC(C)C.CC12CCC3C(C1CCC2=O)CC=C4C3(CCC(C4)[OH:10])O.CN1CCC(=O)CC1>>CC(C)O[Al-:20]([OH+:10]C1CCC2(C3CCC4(C(C3CC=C2C1)CCC4=O)C)O)(OC(C)C)OC(C)C.CN1CCC(=O)CC1 10=20,
[H:20][OH:21].[Li][O:10]C(C)C(C)C1=CC=CC=C1.[AlH3]>>[H:20][O+:10]([Li])C(C)C(C)C1=CC=CC=C1.[OH-:21].[AlH3] 10=20;20,21=21
CCN[C:20](C)([O-:10])[O:21]C(=O)C=C>>CCN[C:20](=[O:10])C.C=CC(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]C(=O)C.CCOC(=O)[CH:10]=[C:11](C)[N:12]1CCOCC1.[BH3-]C#N>>[H:20][CH:10]([C:11](=[N+:12]1CCOCC1)C)C(=O)OCC.CC(=O)[O-:21].[BH3-]C#N 10,11=10,20;20,21=21;12=11
[Mg:10]([P+:11](Cl)(Cl)Cl)Br>>[Mg+:10]Br.[P:11](Cl)(Cl)Cl 10,11=11
C1=CC=C(C=C1)CN2C3=C(C=CC=C3)C(C2=O)OC(=O)[C:21](=[N+:20]=[N-:10])C4=CC=CC=C4.CC(=O)NC1=CC=C(C=C1)S(=O)(=O)[NH-].C1CCC2=[NH+]CCCN2CC1>>C1=CC=C(C=C1)CN2C3=C(C=CC=C3)C(C2=O)OC(=O)[C-:21](C4=CC=CC=C4)[N+:20]#[N:10].CC(=O)NC1=CC=C(C=C1)S(=O)(=O)[NH-].C1CCC2=[NH+]CCCN2CC1 10=20;20,21=21
[Li:20][O+]([Li])CC([CH2-:10])C(C)C.CCC>>[Li][O+]1[Li-:20][CH2:10]C(C1)C(C)C.CCC 10=20,
[C-:10]#N.C(CO)[CH:20]=[O:21]>>C(CO)[CH:20]([C:10]#N)[O-:21] 10=20;20,21=21
C[C:20](=[O+:21]C)C.C[OH:10]>>C[C:20](C)([OH+:10]C)[O:21]C 10=20;20,21=21
CC#[C-:10].C[C:20](=[O:21])Cl>>CC#[C:10][C:20](C)([O-:21])Cl 10=20;20,21=21
CCO[C:20]1(C=C[N-:12][CH:11]=[CH:10]1)[Cl:21]>>CCO[C:20]1=[CH:10][CH:11]=[N:12]C=C1.[Cl-:21] 10,11=10,20;20,21=21;12=11
CCO[C:20](=[O:21])CCC(=O)N(C)C.C[O-:10]>>CCO[C:20](CCC(=O)N(C)C)([O-:21])[O:10]C 10=20;20,21=21
[H:20][N+:21](C)(C)C.[OH2:10]>>[H:20][OH2+:10].C[N:21](C)C 10=20;20,21=21
[H:20][O+:21](C1CC2C3C(C3(C)C)CC(C4(C2=O)C=C(C5C4(C1O)OC(=O)O5)C)C)S(C)(C)N6C(=O)CCC6=O.C1CC(=O)[N-:10]C1=O.[Cl-]>>[H:20][N:10]1C(=O)CCC1=O.CC1CC2C(C2(C)C)C3CC(C(C45C1(C3=O)C=C(C4OC(=O)O5)C)O)[O:21]S(C)(C)N6C(=O)CCC6=O.[Cl-] 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1NC(=O)CC)Br.[Br-:10]>>[H:20][Br:10].CCC(=O)N[C:22]1=[C:21](C=CC=C1)Br 10=20;20,21=21,22
[H:20][CH:21](CCOP(=O)(Cl)Cl)[CH:22](C)[O:23]S(=O)(=O)C1=CC=C(C=C1)C.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.C[CH:22]=[CH:21]CCOP(=O)(Cl)Cl.CC1=CC=C(C=C1)S(=O)(=O)[O-:23] 10=20;22,23=23;20,21=21,22
CC1=CC=C(C=C1)[CH:20]([C:11](C)([C:10]2=CC=CC(=C2)CC(C)C)[OH:12])[OH2+:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CC1=CC=C(C=C1)[CH:20]([C:10]2=CC=CC(=C2)CC(C)C)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
CC(=O)NC1=CC=C(C=C1)S(=O)(=O)[NH:21][N-:20][N:10]=C(C2=CC=CC=C2)C(=O)OC3C4=C(C=CC=C4)N(C3=O)CC5=CC=CC=C5.C1CCC2=[NH+]CCCN2CC1>>CC(=O)NC1=CC=C(C=C1)S(=O)(=O)[NH-:21].C1=CC=C(C=C1)CN2C3=C(C=CC=C3)C(C2=O)OC(=O)C(=[N+:10]=[N-:20])C4=CC=CC=C4.C1CCC2=[NH+]CCCN2CC1 10=20;20,21=21
C[C+]=C[Si:20](C)(C)C.C[O:10][Sc-]>>C[C+]=C[Si-:20](C)(C)(C)[O+:10](C)[Sc-] 10=20,
C1=CC=C(C=C1)CCC(=O)[Cl:10].[Al:20](Cl)(Cl)Cl>>C1=CC=C(C=C1)CCC(=O)[Cl+:10][Al-:20](Cl)(Cl)Cl 10=20,
[H:20][NH:21]N=C1CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3CCCCCC)O.[OH-:10].O.[K+]>>[H:20][OH:10].CCCCCCN1CCC23C4C(=N[NH-:21])CCC2(C1CC5=C3C(=C(C=C5)OC)O4)O.O.[K+] 10=20;20,21=21
